US06552021B2
3-Methyl-3H-pyrrolo[3,2-α]phenazine-10-carboxylic acid (2-dimethylamino-ethyl)-amide was prepared from 3-methyl-3H-pyrrolo[3,2-α]phenazine-10-carboxylic acid and N,N-dimethylethylenediamine

reactant | 3-methyl-3H-pyrrolo[3,2-α]phenazine-10-carboxylic acid | CN1C=CC=2C1=CC=C1N=C3C=CC=C(C3=NC21)C(=O)O | C16H11N3O2
reactant | N,N-dimethylethylenediamine | CN(CCN)C | C4H12N2
product | 3-Methyl-3H-pyrrolo[3,2-α]phenazine-10-carboxylic acid (2-dimethylamino-ethyl)-amide | CN(CCNC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)C=CN4C)C | C20H21N5O
